US04952698
(a) 1-(3-chlorophenyl)-imidazole-4-carboxylic acid isopropyl ester
A solution of 0.4 g of 1-(3-chlorophenyl)-imidazole-4-carboxylic acid ethyl ester in 40 ml of i-propanol is mixed with 0.5 ml of titanium tetraisopropanolate and refluxed for 8 hours. After concentration of the solution, it is filtered over silica gel and recrystallized from diisopropyl ether. 267 mg (63%) of the title compound with a melting point of 109° C. is obtained from diisopropyl ether.

reactant | 1-(3-chlorophenyl)-imidazole-4-carboxylic acid ethyl ester | 0.4 g | C(C)OC(=O)C=1N=CN(C1)C1=CC(=CC=C1)Cl | C12H11ClN2O2
reactant | i-propanol | 40 ml | C(C)(C)O | C3H8O
catalyst | titanium tetraisopropanolate | 0.5 ml | C(C)(C)[O-].C(C)(C)[O-].C(C)(C)[O-].C(C)(C)[O-].[Ti+4]
product | 1-(3-chlorophenyl)-imidazole-4-carboxylic acid isopropyl ester | 267 mg, 63% | C(C)(C)OC(=O)C=1N=CN(C1)C1=CC(=CC=C1)Cl | C13H13ClN2O2
